* Z:\home\jodh\piezo_matlab\spice\peh.asc
V1 N169 0 SINE(0 {Veq} {f} 0 0 0 0)
R1 N190 N176 {Req}
L1 N169 N176 {Leq}
C1 N198 N190 {Ceq}
C2 N198 0 {Cp}
D1 N198 N213 {Diode}
Q1 N213 N215 N224 0 {npn}
D2 N216 N215 {Diode}
D4 N220 N219 {Diode}
Q2 N216 N198 N217 0 {pnp}
Q3 N219 N198 N218 0 {npn}
L2 N224 0 {Li} Rser={Rsw}
C3 N217 0 {C1/2}
L3 N222 0 {Li} Rser={Rsw}
Q4 N214 N220 N222 0 {pnp}
D3 N214 N198 {Diode}
D5 N198 N204 {Diode}
D6 0 N204 {Diode}
D7 N212 N198 {Diode}
D8 N212 0 {Diode}
C4 N204 N212 {Crect}
R4 N204 N212 {Rload}
C14 N196 0 {C1/2}
Q5 N191 N171 N196 0 {pnp}
Q6 N187 N192 N197 0 {npn}
L5 N197 0 {Li} Rser={Rsw}
Q7 N188 N193 N197 0 {pnp}
Q8 N194 N171 N195 0 {npn}
C15 N195 0 {C1/2}
D19 N171 N172 {Diode}
D20 0 N172 {Diode}
D21 N174 N171 {Diode}
D22 N174 0 {Diode}
C16 N172 N174 {Crect}
R9 N172 N174 {Rload}
V3 N168 0 SINE(0 {Veq} {f} 0 0 0 0)
R7 N189 N175 {Req}
L4 N168 N175 {Leq}
C12 N171 N189 {Ceq}
C13 N171 0 {Cp}
D13 N171 N196 {Diode}
D31 N191 N192 {Diode}
D32 N171 N187 {Diode}
D33 N188 N171 {Diode}
D34 N193 N194 {Diode}
D35 N195 N171 {Diode}
C40 N218 0 {C1/2}
D14 N248 N253 {Diode}
Q9 N253 N258 N265 0 {npn}
D15 N259 N258 {Diode}
D16 N262 N261 {Diode}
Q10 N259 N248 N260 0 {pnp}
Q11 N261 N248 N260 0 {npn}
L6 N265 0 {Li} Rser={Rsw}
L7 N264 0 {Li} Rser={Rsw}
Q12 N254 N262 N264 0 {pnp}
D17 N254 N248 {Diode}
D18 N248 N249 {Diode}
D23 0 N249 {Diode}
D24 N252 N248 {Diode}
D25 N252 0 {Diode}
C6 N249 N252 {Crect}
R2 N249 N252 {Rload}
C7 N260 0 {C1}
V2 N255 0 SINE(0 {Veq} {f} 0 0 0 0)
R3 N257 N256 {Req}
L8 N255 N256 {Leq}
C8 N248 N257 {Ceq}
C9 N248 0 {Cp}
D26 N218 N198 {Diode}
D27 N198 N217 {Diode}
V4 N240 0 SINE(0 {Veq} {f} 0 0 0 0)
R5 N242 N241 {Req}
L10 N240 N241 {Leq}
C5 N239 N242 {Ceq}
C10 N239 0 {Cp}
R6 N239 N246 10e6
R8 N246 0 10e6
R10 N243 N239 10k
V6 +V 0 1
V7 -V 0 -1
XU1 N243 N246 +V -V N245 LTC6752
C17 N006 N170 {Crect}
R11 N006 N170 {Rload}
V8 N149 0 SINE(0 {Veq} {f} 0 0 0 0)
R12 N151 N150 {Req}
L11 N149 N150 {Leq}
C20 N139 N151 {Ceq}
C21 N139 0 {Cp}
D28 0 N138 {Diode}
D29 N139 N138 {Diode}
D30 N153 N139 {Diode}
D36 N153 0 {Diode}
V5 N165 0 SINE(0 {Veq} {f} 0 0 0 0)
R13 N167 N166 {Req}
L9 N165 N166 {Leq}
C11 N155 N167 {Ceq}
C18 N155 0 {Cp}
D9 0 N153 {Diode}
D10 N155 N153 {Diode}
D11 N170 N155 {Diode}
D12 N170 0 {Diode}
V9 N133 0 SINE(0 {Veq} {f} 0 0 0 0)
R14 N135 N134 {Req}
L12 N133 N134 {Leq}
C19 N121 N135 {Ceq}
C22 N121 0 {Cp}
D37 0 N120 {Diode}
D38 N121 N120 {Diode}
D39 N138 N121 {Diode}
D40 N138 0 {Diode}
V10 N113 0 SINE(0 {Veq} {f} 0 0 0 0)
R15 N115 N114 {Req}
L13 N113 N114 {Leq}
C23 N103 N115 {Ceq}
C24 N103 0 {Cp}
D41 0 N102 {Diode}
D42 N103 N102 {Diode}
D43 N120 N103 {Diode}
D44 N120 0 {Diode}
V11 N097 0 SINE(0 {Veq} {f} 0 0 0 0)
R16 N099 N098 {Req}
L14 N097 N098 {Leq}
C25 N087 N099 {Ceq}
C26 N087 0 {Cp}
D45 0 N085 {Diode}
D46 N087 N085 {Diode}
D47 N102 N087 {Diode}
D48 N102 0 {Diode}
V12 N065 0 SINE(0 {Veq} {f} 0 0 0 0)
R17 N067 N066 {Req}
L15 N065 N066 {Leq}
C27 N055 N067 {Ceq}
C28 N055 0 {Cp}
D49 0 N054 {Diode}
D50 N055 N054 {Diode}
D51 N069 N055 {Diode}
D52 N069 0 {Diode}
V13 N081 0 SINE(0 {Veq} {f} 0 0 0 0)
R18 N083 N082 {Req}
L16 N081 N082 {Leq}
C29 N071 N083 {Ceq}
C30 N071 0 {Cp}
D53 0 N069 {Diode}
D54 N071 N069 {Diode}
D55 N085 N071 {Diode}
D56 N085 0 {Diode}
V14 N049 0 SINE(0 {Veq} {f} 0 0 0 0)
R19 N051 N050 {Req}
L17 N049 N050 {Leq}
C31 N039 N051 {Ceq}
C32 N039 0 {Cp}
D57 0 N038 {Diode}
D58 N039 N038 {Diode}
D59 N054 N039 {Diode}
D60 N054 0 {Diode}
V15 N033 0 SINE(0 {Veq} {f} 0 0 0 0)
R20 N035 N034 {Req}
L18 N033 N034 {Leq}
C33 N023 N035 {Ceq}
C34 N023 0 {Cp}
D61 0 N022 {Diode}
D62 N023 N022 {Diode}
D63 N038 N023 {Diode}
D64 N038 0 {Diode}
V16 N016 0 SINE(0 {Veq} {f} 0 0 0 0)
R21 N018 N017 {Req}
L19 N016 N017 {Leq}
C35 N005 N018 {Ceq}
C36 N005 0 {Cp}
D65 0 N006 {Diode}
D66 N005 N006 {Diode}
D67 N022 N005 {Diode}
D68 N022 0 {Diode}
C37 N002 N020 {Crect}
R22 N002 N020 {Rload}
V17 N140 0 SINE(0 {Veq} {f} 0 0 0 0)
R23 N142 N141 {Req}
L21 N140 N141 {Leq}
C38 N137 N142 {Ceq}
C39 N137 0 {Cp}
D69 0 N002 {Diode}
D70 N137 N002 {Diode}
D71 N020 N137 {Diode}
D72 N020 0 {Diode}
V18 N156 0 SINE(0 {Veq} {f} 0 0 0 0)
R24 N158 N157 {Req}
L22 N156 N157 {Leq}
C41 N154 N158 {Ceq}
C42 N154 0 {Cp}
D73 0 N002 {Diode}
D74 N154 N002 {Diode}
D75 N020 N154 {Diode}
D76 N020 0 {Diode}
V19 N122 0 SINE(0 {Veq} {f} 0 0 0 0)
R25 N124 N123 {Req}
L23 N122 N123 {Leq}
C43 N119 N124 {Ceq}
C44 N119 0 {Cp}
D77 0 N002 {Diode}
D78 N119 N002 {Diode}
D79 N020 N119 {Diode}
D80 N020 0 {Diode}
V20 N104 0 SINE(0 {Veq} {f} 0 0 0 0)
R26 N106 N105 {Req}
L24 N104 N105 {Leq}
C45 N101 N106 {Ceq}
C46 N101 0 {Cp}
D81 0 N002 {Diode}
D82 N101 N002 {Diode}
D83 N020 N101 {Diode}
D84 N020 0 {Diode}
V21 N088 0 SINE(0 {Veq} {f} 0 0 0 0)
R27 N090 N089 {Req}
L25 N088 N089 {Leq}
C47 N086 N090 {Ceq}
C48 N086 0 {Cp}
D85 0 N002 {Diode}
D86 N086 N002 {Diode}
D87 N020 N086 {Diode}
D88 N020 0 {Diode}
V22 N056 0 SINE(0 {Veq} {f} 0 0 0 0)
R28 N058 N057 {Req}
L26 N056 N057 {Leq}
C49 N053 N058 {Ceq}
C50 N053 0 {Cp}
D89 0 N002 {Diode}
D90 N053 N002 {Diode}
D91 N020 N053 {Diode}
D92 N020 0 {Diode}
V23 N072 0 SINE(0 {Veq} {f} 0 0 0 0)
R29 N074 N073 {Req}
L27 N072 N073 {Leq}
C51 N070 N074 {Ceq}
C52 N070 0 {Cp}
D93 0 N002 {Diode}
D94 N070 N002 {Diode}
D95 N020 N070 {Diode}
D96 N020 0 {Diode}
V24 N040 0 SINE(0 {Veq} {f} 0 0 0 0)
R30 N042 N041 {Req}
L28 N040 N041 {Leq}
C53 N037 N042 {Ceq}
C54 N037 0 {Cp}
D97 0 N002 {Diode}
D98 N037 N002 {Diode}
D99 N020 N037 {Diode}
D100 N020 0 {Diode}
V25 N024 0 SINE(0 {Veq} {f} 0 0 0 0)
R31 N026 N025 {Req}
L29 N024 N025 {Leq}
C55 N021 N026 {Ceq}
C56 N021 0 {Cp}
D101 0 N002 {Diode}
D102 N021 N002 {Diode}
D103 N020 N021 {Diode}
D104 N020 0 {Diode}
V26 N007 0 SINE(0 {Veq} {f} 0 0 0 0)
R32 N009 N008 {Req}
L30 N007 N008 {Leq}
C57 N001 N009 {Ceq}
C58 N001 0 {Cp}
D105 0 N002 {Diode}
D106 N001 N002 {Diode}
D107 N020 N001 {Diode}
D108 N020 0 {Diode}
V27 N143 N152 SINE(0 {Veq} {f} 0 0 0 0)
R33 N145 N144 {Req}
L20 N143 N144 {Leq}
C59 N136 N145 {Ceq}
C60 N136 N152 {Cp}
V28 N159 0 SINE(0 {Veq} {f} 0 0 0 0)
R34 N161 N160 {Req}
L31 N159 N160 {Leq}
C61 N152 N161 {Ceq}
C62 N152 0 {Cp}
V29 N125 N136 SINE(0 {Veq} {f} 0 0 0 0)
R35 N127 N126 {Req}
L32 N125 N126 {Leq}
C63 N118 N127 {Ceq}
C64 N118 N136 {Cp}
V30 N107 N118 SINE(0 {Veq} {f} 0 0 0 0)
R36 N109 N108 {Req}
L33 N107 N108 {Leq}
C65 N100 N109 {Ceq}
C66 N100 N118 {Cp}
V31 N091 N100 SINE(0 {Veq} {f} 0 0 0 0)
R37 N093 N092 {Req}
L34 N091 N092 {Leq}
C67 N084 N093 {Ceq}
C68 N084 N100 {Cp}
V32 N059 N068 SINE(0 {Veq} {f} 0 0 0 0)
R38 N061 N060 {Req}
L35 N059 N060 {Leq}
C69 N052 N061 {Ceq}
C70 N052 N068 {Cp}
V33 N075 N084 SINE(0 {Veq} {f} 0 0 0 0)
R39 N077 N076 {Req}
L36 N075 N076 {Leq}
C71 N068 N077 {Ceq}
C72 N068 N084 {Cp}
V34 N043 N052 SINE(0 {Veq} {f} 0 0 0 0)
R40 N045 N044 {Req}
L37 N043 N044 {Leq}
C73 N036 N045 {Ceq}
C74 N036 N052 {Cp}
V35 N027 N036 SINE(0 {Veq} {f} 0 0 0 0)
R41 N029 N028 {Req}
L38 N027 N028 {Leq}
C75 N019 N029 {Ceq}
C76 N019 N036 {Cp}
V36 N010 N019 SINE(0 {Veq} {f} 0 0 0 0)
R42 N012 N011 {Req}
L39 N010 N011 {Leq}
C77 N003 N012 {Ceq}
C78 N003 N019 {Cp}
C79 N116 N131 {Crect}
R43 N116 N131 {Rload}
D109 0 N116 {Diode}
D110 N003 N116 {Diode}
D111 N131 N003 {Diode}
D112 N131 0 {Diode}
V37 N146 0 SINE(0 {Veq} {f} 0 0 0 0)
R44 N148 N147 {Req}
L40 N146 N147 {Leq}
C80 N004 N148 {Ceq}
C81 N004 0 {Cp}
V38 N162 0 SINE(0 {Veq} {f} 0 0 0 0)
R45 N164 N163 {Req}
L41 N162 N163 {Leq}
C82 N004 N164 {Ceq}
C83 N004 0 {Cp}
V39 N128 0 SINE(0 {Veq} {f} 0 0 0 0)
R46 N130 N129 {Req}
L42 N128 N129 {Leq}
C84 N004 N130 {Ceq}
C85 N004 0 {Cp}
V40 N110 0 SINE(0 {Veq} {f} 0 0 0 0)
R47 N112 N111 {Req}
L43 N110 N111 {Leq}
C86 N004 N112 {Ceq}
C87 N004 0 {Cp}
V41 N094 0 SINE(0 {Veq} {f} 0 0 0 0)
R48 N096 N095 {Req}
L44 N094 N095 {Leq}
C88 N004 N096 {Ceq}
C89 N004 0 {Cp}
V42 N062 0 SINE(0 {Veq} {f} 0 0 0 0)
R49 N064 N063 {Req}
L45 N062 N063 {Leq}
C90 N004 N064 {Ceq}
C91 N004 0 {Cp}
V43 N078 0 SINE(0 {Veq} {f} 0 0 0 0)
R50 N080 N079 {Req}
L46 N078 N079 {Leq}
C92 N004 N080 {Ceq}
C93 N004 0 {Cp}
V44 N046 0 SINE(0 {Veq} {f} 0 0 0 0)
R51 N048 N047 {Req}
L47 N046 N047 {Leq}
C94 N004 N048 {Ceq}
C95 N004 0 {Cp}
V45 N030 0 SINE(0 {Veq} {f} 0 0 0 0)
R52 N032 N031 {Req}
L48 N030 N031 {Leq}
C96 N004 N032 {Ceq}
C97 N004 0 {Cp}
V46 N013 0 SINE(0 {Veq} {f} 0 0 0 0)
R53 N015 N014 {Req}
L49 N013 N014 {Leq}
C98 N004 N015 {Ceq}
C99 N004 0 {Cp}
C100 N117 N132 {Crect}
R54 N117 N132 {Rload}
D113 0 N117 {Diode}
D114 N004 N117 {Diode}
D115 N132 N004 {Diode}
D116 N132 0 {Diode}
R55 N186 N185 {Req}
L52 N184 N185 {Leq}
C101 N177 N186 {Ceq}
C102 N177 0 {Cp}
V47 N184 0 SINE(0 {Veq} {f} 0 0 0 0)
L53 N177 0 115
L54 N178 0 115000
XU2 NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 NC_08 NC_09 NC_10 MP_11 NC_12 NC_13 NC_14 NC_15 MP_16 NC_17 NC_18 NC_19 NC_20 LTC3109
R57 N211 N210 {Req}
L55 N209 N210 {Leq}
C104 N202 N211 {Ceq}
C105 N202 0 {Cp}
D121 0 N203 {Diode}
D122 N202 N203 {Diode}
D123 N223 N202 {Diode}
D124 N223 0 {Diode}
V48 N209 0 SINE(0 {Veq} {f} 0 0 0 0)
C106 N203 N223 {Crect}
R58 N203 N223 {Rload}
R59 N236 N235 {Req}
L56 N234 N235 {Leq}
C107 N227 N236 {Ceq}
C108 N227 0 {Cp}
D125 N237 N230 {Diode}
D126 N238 N230 {Diode}
D127 0 N238 {Diode}
D128 0 N237 {Diode}
C109 N230 0 {Crect}
R60 N230 0 {Rload}
L57 N227 0 100
L58 N228 0 100
V49 N234 0 SINE(0 {Veq} {f} 0 0 0 0)
L59 N229 0 100
L60 N230 0 1000
R61 N229 N228 0.01
R62 N181 N180 {Req_eqS}
L61 N179 N180 {Leq_eqS}
C110 N182 N181 {Ceq_eqS}
C111 N182 0 {Cp_eqS}
D129 0 N173 {Diode}
D130 N183 N173 {Diode}
D131 N199 N183 {Diode}
D132 N199 0 {Diode}
V50 N179 0 SINE(0 {Veq_eqS} {f} 0 0 0 0)
C112 N173 N199 {Crect}
R63 N173 N199 {Rload}
R64 N207 N206 {Req_eqP}
L50 N205 N206 {Leq_eqP}
C113 N208 N207 {Ceq_eqP}
C114 N208 0 {Cp_eqP}
D133 0 N201 {Diode}
D134 N200 N201 {Diode}
D135 N221 N200 {Diode}
D136 N221 0 {Diode}
V51 N205 0 SINE(0 {Veq_eqP} {f} 0 0 0 0)
C115 N201 N221 {Crect}
R65 N201 N221 {Rload}
L51 N208 0 25
L62 N200 0 1
L63 N182 0 25
L64 N183 0 1
D137 N250 N247 {Diode}
D138 N251 N247 {Diode}
D139 N263 N251 {Diode}
D140 N263 N250 {Diode}
R68 N233 N232 {Req_eqP}
L66 N231 N232 {Leq_eqP}
C119 N225 N233 {Ceq_eqP}
C120 N225 0 {Cp_eqP}
D141 0 N226 {Diode}
D142 N225 N226 {Diode}
D143 N244 N225 {Diode}
D144 N244 0 {Diode}
V53 N231 0 SINE(0 {Veq_eqP} {f} 0 0 0 0)
C121 N226 N244 {Crect}
R69 N226 N244 {Rload}
L67 N202 0 115
C103 N247 N263 {Crect/100}
R56 N247 N263 {Rload*10000}
.model D D
.lib C:\users\jodh\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\jodh\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 1.025 1 uic
.param Rload=5.994843e+04
.param Crect=1uF
.param Rsw= 84
.param C1=1.9800e-08
.param Li=0.0470
* .step param C1 list 1n 10n 20n 45n\n.step param Li list 0.047 0.1 0.5 0.01 1\n.step dec param Rload 0.1k 100meg 3
* *Use old model\n.param Leq = 6.797433e+01\n.param Req = 5.196815e+08\n.param Ceq = 5.791988e-07\n.param Veq = 7.973054e+05\n.param f = 42\n.param Cp = 3.364591e-07
* *Use new model\n.param Leq = 2.953846e-08\n.param Req = 6.191716e-01\n.param Ceq = 2.112500e-07\n.param Veq = 2.752084e+01\n.param f = 42\n.param Cp = 1.252091e-07
* .include component_sweep.lib
.model 1 ako:TIP31C
.model 2 ako:TIP32C
.model 3 ako:BAT54
.param npn = 1
.param pnp = 2
.param Diode = 3
.include equiv_model.lib
.include other_models.lib
* .include large_sweep.lib
* .include lowpow_sweep.lib
* .include combine_sweep.lib
* .model 1 ako:BSS4130A\n.model 2 ako:BSS5130A\n.model 3 ako:MBR0520L\n \n.param npn = 1\n.param pnp = 2\n.param Diode = 3
.include tlv3691.lib
K4 L53 L54 1
K5 L57 L58 1
K6 L59 L60 1
K7 L51 L62 1
K8 L63 L64 1
.lib LTC7.lib
.lib LTC3109.sub
.backanno
.end
